* source LEAD_LAG
R_R1         VN N01466 R_R1 1k TC=0,0 
.model        R_R1 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
V_V1         V+ 0 5
X_U1         N01754 N01466 V+ V- VOUT uA741
C_C1         N01466 VOUT C_C1 0.1595u  TC=0,0 
.model        C_C1 CAP C=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0 VC1=0 VC2=0
R_R2         VP N01754 R_R2 10k TC=0,0 
.model        R_R2 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
C_C2         0 N01754 C_C2 1.595u  TC=0,0 
.model        C_C2 CAP C=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0 VC1=0 VC2=0
V_V2         V- 0 -5
R_R3         N01466 VOUT R_R3 10k TC=0,0 
.model        R_R3 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
V_0_0_4_100Hz         VN N01768   PWL    
+ 0 0 0.01 0.04 0.02 0.08 0.03 0.12 0.04 0.16 0.05 0.2 0.06 0.24 0.07 0.28
+  0.08 0.32 0.09 0.36 0.1 0.4  
V_0_0_5_50Hz         VP N01774   PWL    
+ 0 0 0.02 0.1 0.04 0.2 0.06 0.3 0.08 0.4 0.1 0.5  
X_V3         N01768 0 VRNDMN PARAMS: NVAL=0.015m
X_V4         N01774 0 VRNDMN PARAMS: NVAL=0.015m
.PARAM  r_var=1k
