* source MULTIPLIER_SLOWDC
R_R52         N18136 N17840 R_R52 250k TC=0,0 
.model        R_R52 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R22         N17808 VDD R_R22 1k TC=0,0 
.model        R_R22 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
X_U5B         VX N18124 N18124 N17808 VSS awbmc33172
R_R12         N18124 N18136 R_R12 10k TC=0,0 
.model        R_R12 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R21         N17288 VDD R_R21 1k TC=0,0 
.model        R_R21 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
V_V2         VSS 0 -2.4
V_V1         VDD 0 2.4
X_U4B         VY N17464 N17464 N17288 VSS awbmc33172
R_R41         N17512 0 R_R41 500k TC=0,0 
.model        R_R41 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
X_U6B         0 N17840 N18136 N17808 VSS awbmc33172
R_R11         N17452 N17464 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R32         N17808 N17760 R_R32 250k TC=0,0 
.model        R_R32 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
X_U3B         VX N17452 N17452 N17288 VSS awbmc33172
X_U7B         N17512 N17760 VOUT VDD VSS awbmc33172
R_R31         N17288 N17512 R_R31 250k TC=0,0 
.model        R_R31 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R42         N17760 VOUT R_R42 500k TC=0,0 
.model        R_R42 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R51         N17840 VY R_R51 250k TC=0,0 
.model        R_R51 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
V_V8         VX 0   PWL    
+ 0 -0.1 0.01 -0.08 0.02 -0.06 0.03 -0.04 0.04 -0.02 0.05 0 0.06 0.02 0.07
+  0.04 0.08 0.06 0.09 0.08 0.1 0.1  
V_V9         VY 0   PWL    
+ 0 -1 0.02 -0.6 0.04 -0.2 0.06 0.2 0.08 0.6 0.1 1  
