* source RANDOM_NOISE
R_R2         0 WITH_NOISE  1k TC=0,0 
V_V4         CLEAN 0 1
E_E1         WITH_NOISE CLEAN VALUE { (RNDC-0.2)/5 }
.PARAM  sweep=1
