* source BUCK
V_V1         N00230 0 25
M_M1         N00230 N01632 N00237 N00237 IRF540
R_R1         N00197 N00257  0.017 TC=0,0 
R_R2         N01356 VBUCK  0.01 TC=0,0 
R_R3         0 VBUCK  6.8 TC=0,0 
C_C1         0 N01356  210u  TC=0,0 
L_L1         N00237 N00197  25u  
E_E1         N01777 0 POLY(1) N00257 VBUCK 0.0 5
R_R4         N00257 VBUCK  0.05 TC=0,0 
E_SUM1         N02620 0 VALUE {V(N01777)+V(N01931)}
I_I1         N01931 0 DC 0Adc AC 0Aac
+PULSE 0 -278u 100n 4.95u 2n 2n 5u
R_R5         0 N01931  1k TC=0,0 
R_Rcomp         N02269 N02295 R_Rcomp 100K TC=0,0 
.model        R_Rcomp RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_Rcomp1         N02269 VCONTROL R_Rcomp1 10e6 TC=0,0 
.model        R_Rcomp1 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R8         N02251 N02269 R_R8 1k TC=0,0 
.model        R_R8 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R9         0 N02251 R_R9 3.25k TC=0,0 
.model        R_R9 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
R_R10         N02251 VBUCK R_R10 9.76k TC=0,0 
.model        R_R10 RES R=1 DEV=DEV/FLAT 5TC1=0 TC2=0
C_Chf         N02269 VCONTROL C_Chf 30p  TC=0,0 
.model        C_Chf CAP C=1 DEV=DEV/FLAT 5TC1=0 TC2=0 VC1=0 VC2=0
C_Ccomp         N02295 VCONTROL C_Ccomp 2n  TC=0,0 
.model        C_Ccomp CAP C=1 DEV=DEV/FLAT 5TC1=0 TC2=0 VC1=0 VC2=0
E_E3         N02675 0 VALUE { if(V(N02620) >V( VCONTROL),3.5,0) }
X_U3         N03841 N03864 N03889 $G_DPWR $G_DGND NOR2
X_U4         N03889 N02675 N03864 $G_DPWR $G_DGND NOR2
X_U5         N03841 N03889 N04324 $G_DPWR $G_DGND NOR2
E_E4         N01632 0 VALUE { if(V(N04324)>1.5,30,0) }
V_V2         N03841 0  
+PULSE 0.1 3.5 0 5n 5n 100n 5u
R_R11         0 N03864  1Meg TC=0,0 
C_C5         0 N04324  1p  TC=0,0 
C_C6         0 N04324  1p  TC=0,0 
C_C7         0 N01632  1p  TC=0,0 
X_U6A         N06430 N02269 N06912 N06056 VCONTROL LM324
V_V3         N06912 0 12v
V_V4         0 N06056 12
V_V5         N06430 0  
+PULSE 0 2.5 0 4m 2m 1 2
D_D2         0 N14809 31DQ10 
V_V6         N14809 0 25
D_D1         0 N00237 Dbreak 
