* source BUCK_CONVERTER
M_M1         N00261 N00416 N00296 N00296 IRF540
L_L1         N00296 N00310  25uH  
D_D1         0 N00296 Dbreak 
R_R1         N00310 N00314  0.017 TC=0,0 
R_R2         N00314 VBUCK  0.05 TC=0,0 
R_R3         N00292 VBUCK  0.01 TC=0,0 
R_R4         0 VBUCK  6.8 TC=0,0 
C_C1         0 N00292  210u  TC=0,0 
E_E1         N01270 0 POLY(1) N00314 VBUCK 0.0 1
V_V1         N00261 0 25
E_E2         N00416 0 VALUE { if(V(N00481)>1.5,30,0) }
C_C2         0 N00481  1p  TC=0,0 
C_C3         0 N00416  1p  TC=0,0 
E_E3         N00797 0 VALUE { if(V(N01282)>V( VCONTROL),3.5,0) }
X_U1         N00873 N00809 N00834 $G_DPWR $G_DGND NOR2
X_U2         N00834 N00797 N00809 $G_DPWR $G_DGND NOR2
X_U3         N00873 N00834 N00481 $G_DPWR $G_DGND NOR2
V_V2         N00873 0  
+PULSE 0.1 3.5 0 5n 5n 100n 5u
C_C4         0 N00481  1p  TC=0,0 
E_SUM1         N01282 0 VALUE {V(N01270)+V(N01294)}
R_R5         0 N01294  1k TC=0,0 
R_R6         N01659 VCONTROL  10e6 TC=0,0 
R_R7         N01659 N01717  100k TC=0,0 
C_C5         N01717 VCONTROL  2n  TC=0,0 
C_C6         N01659 VCONTROL  30p  TC=0,0 
X_U4A         VREF N01659 N01852 N01837 VCONTROL LM324
R_R8         N01978 VBUCK  9.76k TC=0,0 
R_R9         0 N01978  3.25k TC=0,0 
R_R10         N01659 N01978  1k TC=0,0 
V_V4         0 N01837 12
V_V5         N01852 0 12
V_V6         VREF 0  
+PULSE 0 2.5 0 4m 2m 1 2
R_R11         0 N00809  1Meg TC=0,0 
I_I1         N01294 0 DC 0Adc AC 0Aac
+PULSE 0 -278u 100n 4.95u 2n 2n 5u
