* source LEADLAG
X_U1         N00326 N00266 V+ V- VOUT uA741
R_R1         VN N00266 R_R1 1k TC=0,0 
.model        R_R1 RES R=1     DEV 5%/5% TC1=0 TC2=0
R_R2         VP N00326 R_R2 10k TC=0,0 
.model        R_R2 RES R=1     DEV 5%/5% TC1=0 TC2=0
R_R3         N00266 VOUT R_R3 10k TC=0,0 
.model        R_R3 RES R=1     DEV 5%/5% TC1=0 TC2=0
C_C1         N00266 VOUT C_C1 0.1595u  TC=0,0 
.model        C_C1 CAP C=1     DEV 5%/5% TC1=0 TC2=0 VC1=0 VC2=0
C_C2         0 N00326 C_C2 1.595u  TC=0,0 
.model        C_C2 CAP C=1     DEV 5%/5% TC1=0 TC2=0 VC1=0 VC2=0
V_V1         V+ 0 12
V_V2         V- 0 -12
V_V3         VN 0  
+SIN 0 0.2 100 0 0 0
V_V4         VP 0  
+SIN 0 0.4 10 0 0 0
