* source LEADLAG_18APR
R_R3         N01476 VOUT  10k TC=0,0 
V_V1         V+ 0 12
R_R2         VP N01514  10k TC=0,0 
R_R1         VN N01476  1k TC=0,0 
V_V2         V- 0 -12
X_U1         N01514 N01476 V+ V- VOUT uA741
C_C2         0 N01514  1.595u  TC=0,0 
C_C1         N01476 VOUT  0.1595u  TC=0,0 
V_V3         VN 0  
+SIN 0 0.2 100 0 0 0
V_V4         VP 0  
+SIN 0 0.4 10 0 0 0
