* source MULTIPLIER_RAMP
V_V8         VX 0  
+PULSE -1 1 0 10m 0 0 10m
V_V9         VY 0  
+PULSE -1.5 1.5 0 10m 0 0 10m
R_R42         N15801 VOUT R_R42 500k TC=0,0 
.model        R_R42 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R52         N16111 N15867 R_R52 245k TC=0,0 
.model        R_R52 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R22         N15841 VDD R_R22 1k TC=0,0 
.model        R_R22 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R21         N15395 VDD R_R21 1k TC=0,0 
.model        R_R21 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
X_U4B         VY N15557 N15557 N15395 VSS awbmc33172
V_V2         VSS 0 -2.4
R_R12         N16099 N16111 R_R12 10k TC=0,0 
.model        R_R12 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
X_U6B         0 N15867 N16111 N15841 VSS awbmc33172
X_U7B         N15605 N15801 VOUT VDD VSS awbmc33172
R_R31         N15395 N15605 R_R31 250k TC=0,0 
.model        R_R31 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R51         N15867 VY R_R51 250k TC=0,0 
.model        R_R51 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R11         N15545 N15557 R_R11 10k TC=0,0 
.model        R_R11 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
X_U5B         VX N16099 N16099 N15841 VSS awbmc33172
V_V1         VDD 0 2.4
R_R32         N15841 N15801 R_R32 250k TC=0,0 
.model        R_R32 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
R_R41         N15605 0 R_R41 500k TC=0,0 
.model        R_R41 RES R=1     DEV/UNIFORM 5%/5% TC1=0 TC2=0
X_U3B         VX N15545 N15545 N15395 VSS awbmc33172
