* source BUCK_NOISE
R_Rcomp         N06540 N06752  80k TC=0,0 
V_V5         VBUCK N06780   PWL   
+ REPEAT FOREVER 
+ FILE "F:\Swati\Result\buck\input_buck_noise.txt" 
+ ENDREPEAT
V_V3         N06976 0 12
R_Rcomp1         N06540 VCONTROL  10e6 TC=0,0 
R_Rf1         N06664 VBUCK  9.76k TC=0,0 
C_Chf         N06540 VCONTROL  30p  TC=0,0 
C_Ccomp         N06752 VCONTROL  2n  TC=0,0 
X_U1A         VREF N06540 N06976 N06804 VCONTROL LM324
R_Rf2         0 N06664  3.25k TC=0,0 
R_R1         N06664 N06540  1k TC=0,0 
V_V4         0 N06804 12
X_V6         VREF 0 VPULSEN PARAMS: V1=0 V2=2.5 TD=0 TR=4m TF=2m PW=1 PER=2
+  NVAL=0.15m
X_V7         N06780 0 VRNDMN PARAMS: NVAL=0.15
