* source LEADLAG_SLOWDC
V_0_0_4_100Hz         VN 0   PWL    
+ 0 0 0.01 0.04 0.02 0.08 0.03 0.12 0.04 0.16 0.05 0.2 0.06 0.24 0.07 0.28
+  0.08 0.32 0.09 0.36 0.1 0.4  
C_C2         0 N09012  1.595u  TC=0,0 
V_0_0_5_50Hz         VP 0   PWL    
+ 0 0 0.02 0.1 0.04 0.2 0.06 0.3 0.08 0.4 0.1 0.5  
V_V1         V+ 0 5
R_R3         N08732 VOUT  10k TC=0,0 
C_C1         N08732 VOUT  0.1595u  TC=0,0 
X_U1         N09012 N08732 V+ V- VOUT uA741
R_R2         VP N09012  10k TC=0,0 
V_V2         V- 0 -5
R_R1         VN N08732  1k TC=0,0 
.PARAM  r_var=1k
