* source MULTIPLIER_SLOWDC
R_R31         N19777 N19987 R_R31 250k TC=0,0 
.model        R_R31 RES R=1 DEV=5% TC1=0 TC2=0
R_R21         N19777 VDD R_R21 1k TC=0,0 
.model        R_R21 RES R=1 DEV=5% TC1=0 TC2=0
X_U6B         0 N20251 N20495 N20225 VSS awbmc33172
V_V9         VY N206531   PWL    
+ 0 -1 0.02 -0.6 0.04 -0.2 0.06 0.2 0.08 0.6 0.1 1  
R_R41         N19987 0 R_R41 500k TC=0,0 
.model        R_R41 RES R=1 DEV=5% TC1=0 TC2=0
R_R52         N20495 N20251 R_R52 250k TC=0,0 
.model        R_R52 RES R=1 DEV=5% TC1=0 TC2=0
V_V8         VX N21702   PWL    
+ 0 -0.1 0.01 -0.08 0.02 -0.06 0.03 -0.04 0.04 -0.02 0.05 0 0.06 0.02 0.07
+  0.04 0.08 0.06 0.09 0.08 0.1 0.1  
X_U7B         N19987 N20185 VOUT VDD VSS awbmc33172
R_R22         N20225 VDD R_R22 1k TC=0,0 
.model        R_R22 RES R=1 DEV=5% TC1=0 TC2=0
V_V2         VSS 0 -2.4
R_R11         N19927 N19939 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
X_U5B         VX N20483 N20483 N20225 VSS awbmc33172
R_R51         N20251 VY R_R51 250k TC=0,0 
.model        R_R51 RES R=1 DEV=5% TC1=0 TC2=0
V_V1         VDD 0 2.4
R_R12         N20483 N20495 R_R12 10k TC=0,0 
.model        R_R12 RES R=1 DEV=5% TC1=0 TC2=0
R_R42         N20185 VOUT R_R42 500k TC=0,0 
.model        R_R42 RES R=1 DEV=5% TC1=0 TC2=0
X_U4B         VY N19939 N19939 N19777 VSS awbmc33172
X_U3B         VX N19927 N19927 N19777 VSS awbmc33172
R_R32         N20225 N20185 R_R32 250k TC=0,0 
.model        R_R32 RES R=1 DEV=5% TC1=0 TC2=0
X_V10         N206531 0 VRNDMN PARAMS: NVAL=0.00035m
X_V11         N21702 0 VRNDMN PARAMS: NVAL=0.00035m
