* source LEADLAG_NOISE
C_C1         N01466 VOUT  0.1595u  TC=0,0 
X_U1         N01754 N01466 V+ V- VOUT uA741
R_R3         N01466 VOUT  10k TC=0,0 
R_R1         VN N01466  1k TC=0,0 
V_V1         V+ 0 12
C_C2         0 N01754  2.15325u  TC=0,0 
V_V2         V- 0 -12
R_R2         VP N01754  10k TC=0,0 
X_V5         VN 0 VSINN PARAMS: FREQ=100 VAMPL=0.2 VOFF=0 PHASE=0 DF=0 TD=0
+  NVAL=0.15m
X_V6         VP 0 VSINN PARAMS: FREQ=10 VAMPL=0.4 VOFF=0 PHASE=0 DF=0 TD=0
+  NVAL=0.15m
