* source SINE_NOISE
R_R52         N17621 N17377 R_R52 250k TC=0,0 
.model        R_R52 RES R=1 DEV=5% TC1=0 TC2=0
R_R31         N16905 N17115 R_R31 250k TC=0,0 
.model        R_R31 RES R=1 DEV=5% TC1=0 TC2=0
R_R22         N17351 VDD R_R22 1k TC=0,0 
.model        R_R22 RES R=1 DEV=5% TC1=0 TC2=0
V_V2         VSS 0 -2.4
R_R51         N17377 VY R_R51 250k TC=0,0 
.model        R_R51 RES R=1 DEV=5% TC1=0 TC2=0
R_R21         N16905 VDD R_R21 1k TC=0,0 
.model        R_R21 RES R=1 DEV=5% TC1=0 TC2=0
X_U3B         VX N17055 N17055 N16905 VSS awbmc33172
R_R32         N17351 N17311 R_R32 250k TC=0,0 
.model        R_R32 RES R=1 DEV=5% TC1=0 TC2=0
R_R12         N17609 N17621 R_R12 10k TC=0,0 
.model        R_R12 RES R=1 DEV=5% TC1=0 TC2=0
X_U4B         VY N17067 N17067 N16905 VSS awbmc33172
X_U7B         N17115 N17311 VOUT VDD VSS awbmc33172
V_V1         VDD 0 2.4
R_R11         N17055 N17067 R_R11 10k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
R_R42         N17311 VOUT R_R42 500k TC=0,0 
.model        R_R42 RES R=1 DEV=5% TC1=0 TC2=0
X_U5B         VX N17609 N17609 N17351 VSS awbmc33172
R_R41         N17115 0 R_R41 500k TC=0,0 
.model        R_R41 RES R=1 DEV=5% TC1=0 TC2=0
X_U6B         0 N17377 N17621 N17351 VSS awbmc33172
X_V3         VX 0 VSINN PARAMS: FREQ=10k VAMPL=0.2 VOFF=0 PHASE=0 DF=0 TD=0
+  NVAL=0.15m
X_V4         VY 0 VSINN PARAMS: FREQ=100 VAMPL=0.2 VOFF=0 PHASE=0 DF=0 TD=0
+  NVAL=0.15m
